US07943652B2
Step c: Preparation of (E)-3-((S)-4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride
To a stirred solution of (S)-2-[4-((E)-2-methoxycarbonyl-vinyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (40.2 g, 115 mmol) was added 120 mL of 4 N hydrochloric acid in dioxane and the reaction mixture was stirred for 16 h. Diethyl ether (500 mL) was added to the suspension and the resulting solid was filtered and washed twice with diethyl ether to yield 29.0 g (94%) of the title compound as a white solid.

reactant | (S)-2-[4-((E)-2-methoxycarbonyl-vinyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 115 mmol, 40.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=CC=C(C=C1)\C=C\C(=O)OC | C19H25NO4
reactant | hydrochloric acid | 4 N, 120 mL | Cl | ClH
reactant | Diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (E)-3-((S)-4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride | 29.0 g, 94% | Cl.COC(\C=C\C1=CC=C(C=C1)[C@H]1NCCC1)=O | InChI=1S/C14H17NO2.ClH/c1-17-14(16)9-6-11-4-7-12(8-5-11)13-3-2-10-15-13;/h4-9,13,15H,2-3,10H2,1H3;1H/b9-6+;/t13-;/m0./s1
